US09102688B2
General Procedure 96: 4-Chloro-2-nitro-benzenesulfonyl chloride (Intermediate 454)
DMF (0.06 ml, cat) was added to a solution of 4-chloro-2-nitro-benzenesulfonic acid (600 mg, 2.5 mmol) in SOCl2 (3.1 ml) and the mixture was heated at 90° C. for 3 h. After cooling, the solvent was removed in vacuo. The mixture was diluted with water and extracted repeatedly with chloroform. The combined organic layers were washed with saturated NaHCO3 solution, dried (Na2SO4) and concentrated in vacuo to give the title compound (560 mg) which was used in the next step without further purification. The structure was confirmed by 1H NMR.

reactant | DMF | 0.06 ml | CN(C)C=O | C3H7NO
reactant | 4-chloro-2-nitro-benzenesulfonic acid | 2.5 mmol, 600 mg | ClC1=CC(=C(C=C1)S(=O)(=O)O)[N+](=O)[O-] | C6H4ClNO5S
reactant | SOCl2 | 3.1 ml | O=S(Cl)Cl | Cl2OS
product | 4-Chloro-2-nitro-benzenesulfonyl chloride | 560 mg | ClC1=CC(=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
